US07037932B2
7-{[(1S)-3-Iodo-1-phenylpropyl]oxy}-1-benzothiophene-2-carbonitrile
4,4-(Dimethyl-1,1-dioxido-1,2,5-thiadiazolidin-2-yl)-triphenyl phosphonium (383 mg, 0.93 mmol) was added in one portion to a stirred solution of (R)-3-iodo-1-phenyl-1-propanol (Ref: Molander, Gary A.; Shakya, Sagar R.; J. Org. Chem.; EN; 59; 12; 1994; 3445–3452.) (182 mg, 0.69 mmol) and 4-fluoro-7-hydroxy-benzo[b]thiophene-2-carbonitrile (112 mg, 0.58 mmol) in dry THF (12 mL) under an inert atmosphere on nitrogen. The resulting suspension was allowed to stir for a further 18 hrs before the solvent was removed in vacuo. The residue was purified by flash chromatography with a gradient of 0–4% diethyl ether in hexane to give the title compound as a colourless oil (0.22 g, 88%); δH (300 MHz, CDCl3) 7.83 (1H, s, 3-ArH), 7.36–7.12 (5H, m, ArH), 6.85–6.75 (1H, m, ArH), 6.65–6.57 (1H, m, ArH), 5.40–5.30 (1H, m, CHO), 3.47–3.28 (1H, m, CH2CHHI), 3.23–3.12 (1H, m, CH2CHHI), 2.60–2.42 (1H, m, CHHCH2I) and 2.34–2.19 (1H, m, CHHCH2I).

reactant | (R)-3-iodo-1-phenyl-1-propanol | 0.69 mmol, 182 mg | ICC[C@@H](O)C1=CC=CC=C1 | C9H11IO
reactant | 4-fluoro-7-hydroxy-benzo[b]thiophene-2-carbonitrile | 0.58 mmol, 112 mg | FC1=CC=C(C=2SC(=CC21)C#N)O | C9H4FNOS
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 7-{[(1S)-3-Iodo-1-phenylpropyl]oxy}-1-benzothiophene-2-carbonitrile | 0.22 g, 88% | ICC[C@@H](C1=CC=CC=C1)OC1=CC=CC=2C=C(SC21)C#N | C18H14INOS
